US04428950
(c) 1-[2-(2-Aminopyrimidin-4-yl)-phenoxy]-3-[4-(4-chlorophenyl)-piperazin-1-yl]-propan-2-ol
2.0 g (0.021 mole) of guanidine hydrochloride and 0.042 mole of a 30% strength sodium methylate solution are added to 10.0 g (0.021 mole) of 1-[2-(3-dimethylamino-1-oxo-propenyl)-phenoxy]-3-[4-(4-chlorophenyl)-piperazin-1-yl]-propan-2-ol.HCl in 250 ml of ethanol, and the mixture is refluxed for 12 hours. The hot solution is filtered and the filtrate is concentrated. The crude product is recrystallized from ethanol, and 3.5 g (38%) of product of melting point 159°-160° C. are isolated.

reactant | guanidine hydrochloride | 0.021 mole, 2.0 g | Cl.NC(=N)N
reactant | sodium methylate | C[O-].[Na+]
reactant | 1-[2-(3-dimethylamino-1-oxo-propenyl)-phenoxy]-3-[4-(4-chlorophenyl)-piperazin-1-yl]-propan-2-ol | 0.021 mole, 10.0 g | CN(C=CC(=O)C1=C(OCC(CN2CCN(CC2)C2=CC=C(C=C2)Cl)O)C=CC=C1)C | C24H30ClN3O3
reactant | HCl | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-[2-(2-Aminopyrimidin-4-yl)-phenoxy]-3-[4-(4-chlorophenyl)-piperazin-1-yl]-propan-2-ol | NC1=NC=CC(=N1)C1=C(OCC(CN2CCN(CC2)C2=CC=C(C=C2)Cl)O)C=CC=C1 | C23H26ClN5O2
